US07459448B2
10-Bromo-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-18)
In a manner similar to method I (NaHCO3 used instead of K2CO3), 7-bromo-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-k) and 1-(3,4-dimethoxyphenyl)-guanidine were converted to I-18 (74%): HRMS Calcd. for C20H17BrN4O3: 441.0562, Found 441.0548.

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-bromo-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | BrC1=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C=C1 | C13H13BrN2O2
reactant | 1-(3,4-dimethoxyphenyl)-guanidine | COC=1C=C(C=CC1OC)NC(=N)N | C9H13N3O2
product | 10-Bromo-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | BrC1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1 | C20H17BrN4O3
